US07705028B2
8d) 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylic acid
A solution of methyl 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylate (0.126 g, 0.2 mmol) in tetrahydrofuran (2.0 mL) was placed in a microwave reaction tube. Methanol (1.0 mL) was added followed by 1 N sodium hydroxide (0.3 mL, 0.3 mmol). The tube was sealed and heated in a microwave reactor to 100° C. for 600 seconds. The solution was neutralized and concentrated. Water was added and the mixture was filtered. The resulting solid was dried in a vacuum oven at 45° C. with P2O5 to yield the title compound (0.082 g, 73.9% as 0.30 tetrahydrofuran) 1H NMR (DMSO-d6): δ 13.3-12.6 (broad s, approximately 1H), 8.61 (s, 1H), 8.29 (s, 1H), 8.02-7.87 (m, 4H), 7.68 (d, J=9 Hz, 2H), 7.62 (d, J=8 Hz, 2H), 7.54 (dd, J=7, 9 Hz, 1H), 6.91 (d, J=9 Hz, 2H), 4.86 (s, 2H), 3.44 (septet, J=7 Hz, overlapping H2O, 1H), 1.33 (d, J=7 Hz, 6H). HRMS C30H23NO4Cl2 m/z 532.1082, (M+H)+cal; 532.1087 (M+H)+Obs.

reactant | methyl 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylate | 0.2 mmol, 0.126 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C1=CC=C2C=CC(=CC2=C1)C(=O)OC)C(C)C | C31H25Cl2NO4
reactant | Methanol | 1.0 mL | CO | CH4O
reactant | sodium hydroxide | 0.3 mmol, 1 N, 0.3 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylic acid | 0.082 g, 73.9% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C1=CC=C2C=CC(=CC2=C1)C(=O)O)C(C)C | C30H23Cl2NO4
